US07816344B2
N-[3-(1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-propyl]-acetamide
Ac2O (1.16 mL, 12.3 mmol) was added slowly to a solution of Et3N (2.33 mL, 16.5 mmol) and 7-(3-amino-propoxy)-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride (1.69 g, 76.5 mmol) in CH2Cl2 (50 mL) at 0° C. (bath temp). The reaction mixture was stirred at rt for 1 h and then quenched with H2O (50 mL). The mixture was extracted with CH2Cl2 and the organic fraction was dried (MgSO4) and concentrated in vacuo to give the title compound as a viscous liquid: yield 1.29 g (75%).

reactant | Ac2O | 12.3 mmol, 1.16 mL | CC(=O)OC(=O)C | C4H6O3
reactant | Et3N | 16.5 mmol, 2.33 mL | CCN(CC)CC | C6H15N
reactant | 7-(3-amino-propoxy)-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol hydrochloride | 76.5 mmol, 1.69 g | Cl.NCCCOC1=CC=CC2=C1B(OC2C[N+](=O)[O-])O
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(1-Hydroxy-3-nitromethyl-1,3-dihydro-benzo[c][1,2]oxaborol-7-yloxy)-propyl]-acetamide | OB1OC(C2=C1C(=CC=C2)OCCCNC(C)=O)C[N+](=O)[O-] | C13H17BN2O6
